US05700819
A solution of 1,3-biscyanomethyl-5-methylbenzene (2.89 g, 17 mmol) and 2-amino-3,4,6-trifluorothiophenol hydrochloride (3.66 g, 17 mmol) in absolute ethanol was heated at 170° C. for 15 hours under a nitrogen stream in an autoclave. After the reaction, evaporation of the solvent left a residue, which was purified on a silica gel column and recrystallized from ethyl acetate-hexane to obtain 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]-5-methylphenylacetonitrile (1.86 g, 33%).

reactant | 1,3-biscyanomethyl-5-methylbenzene | 17 mmol, 2.89 g | C(#N)CC1=CC(=CC(=C1)C)CC#N | C11H10N2
reactant | 2-amino-3,4,6-trifluorothiophenol hydrochloride | 17 mmol, 3.66 g | Cl.NC1=C(C(=CC(=C1F)F)F)S
solvent | ethanol | C(C)O | C2H6O
product | 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]-5-methylphenylacetonitrile | 1.86 g, 33% | FC1=C(C=C(C2=C1N=C(S2)CC=2C=C(C=C(C2)C)CC#N)F)F | C17H11F3N2S
